US06762321B2
0.76 g (2.0 mmol) of N-[2-(3,4-dimethoxyphenyl)ethyl]-3-hydroxy-2-(5,6,7,8-tetrahydronaphthalen-2-yl)acrylamide and 8ml of anhydrous N,N-dimethylformamide were mixed and 0.5 ml of bromofluoromethane was added thereto at −15° C. 88 mg (2.2 mmol) of 60% sodium hydride was added and stirred at −15° C. for 30 minutes and then stirred at approximately 0° C. for 1.5 hours. Water was added to the reaction mixture, followed by extracted with ethyl acetate, washed with 5% hydrochrolic acid and saturated brine subsequently, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel preparative thin layer chromatography (eluent, hexane:ethyl acetate=1:1) to give 0.68 g of N-[2-(3,4-dimethoxyphenyl)ethyl]-3-fluoromethoxy-2-(5,6,7,8-tetrahydronaphthalen-2-yl)acrylamide(the present compound 1103).

reactant | N-[2-(3,4-dimethoxyphenyl)ethyl]-3-hydroxy-2-(5,6,7,8-tetrahydronaphthalen-2-yl)acrylamide | 2.0 mmol, 0.76 g | COC=1C=C(C=CC1OC)CCNC(C(=CO)C1=CC=2CCCCC2C=C1)=O | C23H27NO4
reactant | N,N-dimethylformamide | 8ml | CN(C=O)C | C3H7NO
reactant | bromofluoromethane | 0.5 ml | BrCF | CH2BrF
reactant | sodium hydride | 2.2 mmol, 88 mg | [H-].[Na+]
solvent | Water | O | H2O
product | N-[2-(3,4-dimethoxyphenyl)ethyl]-3-fluoromethoxy-2-(5,6,7,8-tetrahydronaphthalen-2-yl)acrylamide | 0.68 g | COC=1C=C(C=CC1OC)CCNC(C(=COCF)C1=CC=2CCCCC2C=C1)=O | C24H28FNO4
